US07166622B2
4-Chloro-N-[(1S)-1-(hydroxymethyl)-2,2-dimethylpropyl]benzenesulfonamide
To a solution of S-tert-leucinol (0.20 g, 1.70 mmol), triethylamine (0.19 g, 1.87 mmol) and methylene chloride (10 mL) at 0° C., was added a solution of 4-chloro benzenesulfonyl chloride (0.36 g, 1.70 mmol) in CH2Cl2 (5 mL). After 15 minutes the ice bath was removed and the reaction allowed to reach 25° C. After 16 hours, the reaction was quenched by pouring into saturated sodium bicarbonate solution (20 mL) and additional-methylene chloride (15 mL). The organic phase was separated and washed sequentially with 1N HCl solution (20 mL), distilled water and brine, dried over MgSO4 and evaporated to give the desired product as a white solid, mp 128-130° C. (0.46 g, 94%). MS (+APCI) 292.06 ([M+H]+). Anal. Calc'd for C12H18ClNO3S: C, 49.39; H, 6.22; N, 4.80; Found: C, 49.40; H, 6.17; N, 4.79.

reactant | S-tert-leucinol | 1.70 mmol, 0.20 g | CC(C)(C)[C@@H](CO)N | C6H15NO
reactant | triethylamine | 1.87 mmol, 0.19 g | C(C)N(CC)CC | C6H15N
reactant | 4-chloro benzenesulfonyl chloride | 1.70 mmol, 0.36 g | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | 4-Chloro-N-[(1S)-1-(hydroxymethyl)-2,2-dimethylpropyl]benzenesulfonamide | ClC1=CC=C(C=C1)S(=O)(=O)N[C@@H](C(C)(C)C)CO | C12H18ClNO3S
